US07601846B2
2-(2-Imino-benzothiazol-3-yl)-1-(4-pyrrolidin-1-yl-phenyl)-ethanone hydrobromide salt (17)
The title compound is prepared from α-bromo-4-(1-pyrrolidino)acetophenone and 2-amino-4,5,6,7-tetrahydrobenzothiazole using method A in 43% yield: mp 285-290° C. (dec); 1H-NMR (DMSO-d6) 2.00 (s, 4H), 3.38 (m, 4H), 5.93 (s, 2H), 6.68 (d, 2H), 7.43 (t, 1H), 7.50 (t, 1H), 7.57 (d, 1H), 7.90 (d, 2H), 8.03 (d, 1H); Anal. C19H20BrN3OS (C, H, N).

reactant | α-bromo-4-(1-pyrrolidino)acetophenone | C1CCN(C1)C2=CC=C(C=C2)C(=O)CBr | C12H14BrNO
reactant | 2-amino-4,5,6,7-tetrahydrobenzothiazole | NC=1SC2=C(N1)CCCC2 | C7H10N2S
product | 2-(2-Imino-benzothiazol-3-yl)-1-(4-pyrrolidin-1-yl-phenyl)-ethanone hydrobromide salt | 43% yield | Br.N=C1SC2=C(N1CC(=O)C1=CC=C(C=C1)N1CCCC1)C=CC=C2 | InChI=1S/C19H19N3OS.BrH/c20-19-22(16-5-1-2-6-18(16)24-19)13-17(23)14-7-9-15(10-8-14)21-11-3-4-12-21;/h1-2,5-10,20H,3-4,11-13H2;1H
